US20010027193A1
Methyl 5-(methylsulfonylmethyl)thien-2-ylcarboxylate may be obtained in the following manner: 31.7 g of sodium methyl sulfinate are added to a solution of 73 g of methyl 5-(bromomethyl)thien-2-ylcarboxylate in 150 cm3 of ethanol and the suspension obtained is heated under reflux for 7 hours. The reaction medium is then concentrated to dryness under reduced pressure (2.7 kPa). The residue is extracted with four times 500 cm3 of ethyl acetate, the combined organic phases are washed successively with 250 cm3 of distilled water and 250 cm3 of a saturated sodium chloride solution, dried over magnesium sulfate, filtered and incompletely concentrated under reduced pressure. The solid which appears is isolated by filtration, rinsed with three times 25 cm3 of ice-cold ethyl acetate and provides 21.4 g of methyl 5-(methylsulfonylmethyl)thien-2-ylcarboxylate in the form of a cream-colored powder.

reactant | sodium methyl sulfinate | 31.7 g | CS(=O)[O-].[Na+]
reactant | methyl 5-(bromomethyl)thien-2-ylcarboxylate | 73 g | BrCC1=CC=C(S1)C(=O)OC | C7H7BrO2S
solvent | ethanol | 150 cm3 | C(C)O | C2H6O
product | methyl 5-(methylsulfonylmethyl)thien-2-ylcarboxylate | 21.4 g | CS(=O)(=O)CC1=CC=C(S1)C(=O)OC | C8H10O4S2
